### PR TITLE
Concretise submonoid

### PR DESCRIPTION
**Pull request by grunweg**
---

Helps with #31365.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by jjdishere** [comment]
I believe some problems are caused by current partial change (still using `FooHom.toMonoidHom`, not uniformed to `MonoidHomClass.toMonoidHom`).

**Comment by jjdishere** [comment]
around half of problems can be solved by an additional `MonoidHom.coe_coe`.

**Comment by jjdishere** [comment]
> That's very possible; I tried to do incremental changes. Do you have an example in mind which definitions (or lemmas) should be changed? Or do you mean that the fix should often be to use `MonoidHomClass.toMonoidHom f` instead of `f.toMonoidHom` (when f is e.g. an algebra morphism)? (I've certainly done this too often.)

It's more like choosing a normal form. Since instance synthesis don't see the two forms `IsLocalization (M.map (MonoidHomClass.toMonoidHom f)) S` and `IsLocalization (M.map f.toMonoidHom) S` are equal, we have to stick to one of them for the whole library. ~I believe the first one is what we want. Most of the theorems with hypothesis/conclusion including `f.toMonoidHom` should be changed to `MonoidHomClass.toMonoidHom f`.~

I also did a minimal change to make mathlib build. Lots of `f.toMonoidHom` remains.

**Comment by jjdishere** [comment]
I accidentally pushed some changes related to removing coe to this PR. 
Those changes should belong in a separate PR, split off from the definition modifications (this one). I'll handle the split later.

Opened #43765.

File: Mathlib/RingTheory/Valuation/Integers.lean [hunk 1]
```diff
@@ -209,12 +209,12 @@ lemma coe_span_singleton_eq_setOfPred_le_v_algebraMap (hv : Integers v O) (x : O
 alias coe_span_singleton_eq_setOf_le_v_algebraMap := coe_span_singleton_eq_setOfPred_le_v_algebraMap
 
 lemma bijective_algebraMap_of_subsingleton_units_mrange (hv : Integers v O)
-    [Subsingleton (MonoidHom.mrange v)ˣ] :
+    [Subsingleton (v.mrange)ˣ] :
```
Comment (themathqueen) [inline Mathlib/RingTheory/Valuation/Integers.lean]: do you need the brackets here? does this work or no?

```suggestion
    [Subsingleton v.mrangeˣ] :
```

File: Mathlib/RingTheory/Valuation/Discrete/IsDiscreteValuationRing.lean [hunk 2]
```diff
@@ -103,15 +103,15 @@ theorem exists_lift_of_le_one {x : K} (H : ((maximalIdeal A).valuation K) x ≤
     exact hπ.ne_zero
 
 lemma mker_valuation_eq_isUnitSubmonoid :
-    MonoidHom.mker ((IsDiscreteValuationRing.maximalIdeal A).valuation K) =
-    (IsUnit.submonoid A).map (algebraMap A K) := by
+    ((IsDiscreteValuationRing.maximalIdeal A).valuation K : K →* ℤᵐ⁰).mker =
+    (IsUnit.submonoid A).map (algebraMap A K : A →* K) := by
```
Comment (themathqueen) [inline Mathlib/RingTheory/Valuation/Discrete/IsDiscreteValuationRing.lean]:
```suggestion
      (IsUnit.submonoid A).map (algebraMap A K : A →* K) := by
```

File: Mathlib/RingTheory/Valuation/Discrete/IsDiscreteValuationRing.lean [hunk 3]
```diff
@@ -124,11 +124,12 @@ theorem associated_of_valuation_eq (x y : K)
...
   by_cases hy : y = 0
   · simp_all
-  have : (y / x) ∈ MonoidHom.mker (((maximalIdeal A).valuation K)) := by simp_all
+  have : (y / x) ∈ ((maximalIdeal A).valuation K : K →* ℤᵐ⁰).mker := by simp_all
   rw [mker_valuation_eq_isUnitSubmonoid] at this
   obtain ⟨u, h⟩ := this
   use IsUnit.unit h.1
-  simp only [Units.smul_def, Algebra.smul_def, IsUnit.unit_spec h.1, h.2]
+  simp only [Units.smul_def, Algebra.smul_def, IsUnit.unit_spec h.1,
+    MonoidHom.coe_ofClass (algebraMap A K) ▸ h.2]
```
Comment (themathqueen) [inline Mathlib/RingTheory/Valuation/Discrete/IsDiscreteValuationRing.lean]: can you instead do `simp only [MonoidHom.coe_ofClass] at h` before instead of using `▸` in a `simp`?

File: Mathlib/RingTheory/RootsOfUnity/Basic.lean [hunk 4]
```diff
@@ -152,7 +152,7 @@ def restrictRootsOfUnity [MonoidHomClass F R S] (σ : F) (n : ℕ) :
 
 @[simp]
 theorem restrictRootsOfUnity_coe_apply [MonoidHomClass F R S] (σ : F) (ζ : rootsOfUnity k R) :
```
Comment (themathqueen) [inline Mathlib/RingTheory/RootsOfUnity/Basic.lean]: shouldn't this change here?

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean [hunk 5]
```diff
@@ -197,10 +197,10 @@ lemma isUnit_iff_ordFrac_one_of_isDiscreteValuationRing {x : R} :
   simp [ordFrac_eq_valuation_inv, IsDiscreteValuationRing.maximalIdeal]
 
 lemma mker_ordFrac_eq_isUnitSubmonoid :
-    MonoidHom.mker (ordFrac R) = (IsUnit.submonoid R).map (algebraMap R K) := by
-  rw [ordFrac_eq_inverse_comp_valuation, ← MonoidWithZeroHom.comap_mker,
-      MonoidWithZeroHom.mker_inverse]
-  exact IsDiscreteValuationRing.mker_valuation_eq_isUnitSubmonoid
+    (ordFrac R (K := K) : K →* WithZero (Multiplicative ℤ)).mker =
+    (IsUnit.submonoid R).map (algebraMap R K : R →* K) := by
```
Comment (themathqueen) [inline Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]:
```suggestion
      (IsUnit.submonoid R).map (algebraMap R K : R →* K) := by
```

File: Mathlib/RingTheory/MvPolynomial/Localization.lean [hunk 6]
```diff
@@ -41,13 +41,14 @@ If `S` is the localization of `R` at a submonoid `M`, then `MvPolynomial σ S`
 is the localization of `MvPolynomial σ R` at `M.map MvPolynomial.C`.
 
 See also `Polynomial.isLocalization` for the univariate case. -/
-instance isLocalization : IsLocalization (M.map <| C (σ := σ)) (MvPolynomial σ S) :=
+instance isLocalization : IsLocalization (M.map (C (σ := σ) (R := R) : R →* MvPolynomial σ R))
+    (MvPolynomial σ S) :=
```
Comment (themathqueen) [inline Mathlib/RingTheory/MvPolynomial/Localization.lean]: does this fit in one line?
```suggestion
instance isLocalization :
    IsLocalization (M.map (C (σ := σ) (R := R) : R →* MvPolynomial σ R)) (MvPolynomial σ S) :=
```

Comment (jjdishere) [reply Mathlib/RingTheory/MvPolynomial/Localization.lean]: Thanks! Fixed.

File: Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean (hunk 5 above)
Comment (jjdishere) [reply Mathlib/RingTheory/OrderOfVanishing/Noetherian.lean]: Thanks! Fixed.

File: Mathlib/RingTheory/RootsOfUnity/Basic.lean (hunk 4 above)
Comment (jjdishere) [reply Mathlib/RingTheory/RootsOfUnity/Basic.lean]: Thanks! I'll modify these lemmas as well, if they contain coercion.

File: Mathlib/RingTheory/Valuation/Discrete/IsDiscreteValuationRing.lean (hunk 3 above)
Comment (jjdishere) [reply Mathlib/RingTheory/Valuation/Discrete/IsDiscreteValuationRing.lean]: Fixed. Thanks!

File: Mathlib/Algebra/Group/Submonoid/Membership.lean [hunk 7]
```diff
@@ -431,7 +431,7 @@ theorem log_pow_int_eq_self {x : ℤ} (h : 1 < x.natAbs) (m : ℕ) : log (pow x
 theorem map_powers {N : Type*} {F : Type*} [Monoid N] [FunLike F M N] [MonoidHomClass F M N]
     (f : F) (m : M) :
```
Comment (themathqueen) [inline Mathlib/Algebra/Group/Submonoid/Membership.lean]: should this change too?

File: Mathlib/Algebra/Module/LocalizedModule/Basic.lean [hunk 8]
```diff
@@ -759,7 +759,7 @@ lemma IsLocalizedModule.of_restrictScalars (S : Submonoid R)
   map_units x := by
     obtain ⟨_, x, hx, rfl⟩ := x
     have := IsLocalizedModule.map_units (f.restrictScalars R) ⟨x, hx⟩
-    simp only [← IsScalarTower.algebraMap_apply, Module.End.isUnit_iff] at this ⊢
+    simp only [End.isUnit_iff, MonoidHom.coe_ofClass, ← IsScalarTower.algebraMap_apply] at this ⊢
     exact this
```
Comment (themathqueen) [inline Mathlib/Algebra/Module/LocalizedModule/Basic.lean]: maybe something like `simpa [← IsScalarTower.algebraMap_apply, Module.End.isUnit_iff] using this` might work?

File: Mathlib/Algebra/Ring/Equiv.lean [hunk 9]
```diff
@@ -823,16 +824,6 @@ theorem toEquiv_commutes (f : R ≃+* S) : (f : R ≃+ S).toEquiv = (f : R ≃*
...
--- TODO: Delete this lemma after moving `coe` from `.ofClass` to `.toMonoidHom`, in #43765.
-@[simp]
-theorem toMonoidHom_refl' : (RingEquiv.refl R).toMonoidHom = MonoidHom.id R :=
-  rfl
-
--- TODO: Delete this lemma after moving `coe` from `.ofClass` to `.toAddMonoidHom`, in #43765.
-@[simp]
-theorem toAddMonoidHom_refl' : (RingEquiv.refl R).toAddMonoidHom = AddMonoidHom.id R :=
-  rfl
-
```
Comment (themathqueen) [inline Mathlib/Algebra/Ring/Equiv.lean]: oh did we move the coercion already?
this can probably be its own PR then, as it can be merged quickly?

File: Mathlib/Analysis/CStarAlgebra/Matrix.lean [hunk 10]
```diff
@@ -151,9 +151,11 @@ lemma inner_toEuclideanCLM (A : Matrix n n ℝ) (x y : EuclideanSpace ℝ n) :
 structure provided by `Matrix.instMetricSpaceL2Op` and `Matrix.instNormedAddCommGroupL2Op`. -/
 @[instance_reducible]
 def l2OpNormedAddCommGroupAux : NormedAddCommGroup (Matrix m n 𝕜) :=
-  @NormedAddCommGroup.induced ((Matrix m n 𝕜) ≃ₗ[𝕜] (EuclideanSpace 𝕜 n →L[𝕜] EuclideanSpace 𝕜 m)) _
-    _ _ _ ContinuousLinearMap.toNormedAddCommGroup.toNormedAddGroup _ _
-    (toEuclideanLin.trans toContinuousLinearMap).injective
+  @NormedAddCommGroup.induced (Matrix m n 𝕜) (EuclideanSpace 𝕜 n →L[𝕜] EuclideanSpace 𝕜 m) _
+  ContinuousLinearMap.toNormedAddCommGroup.toNormedAddGroup
```
Comment (themathqueen) [inline Mathlib/Analysis/CStarAlgebra/Matrix.lean]:
```suggestion
    ContinuousLinearMap.toNormedAddCommGroup.toNormedAddGroup
```

File: Mathlib/FieldTheory/RatFunc/Basic.lean [hunk 11]
```diff
@@ -348,11 +348,11 @@ theorem map_apply_ofFractionRing_mk [MonoidHomClass F R[X] S[X]] (φ : F)
     (hφ : R[X]⁰ ≤ S[X]⁰.comap φ) (n : R[X]) (d : R[X]⁰) :
     map φ hφ (ofFractionRing (Localization.mk n d)) =
       ofFractionRing (Localization.mk (φ n) ⟨φ d, hφ d.prop⟩) := by
-  simp only [map, MonoidHom.coe_mk, OneHom.coe_mk, liftOn_ofFractionRing_mk,
-    Submonoid.mem_comap.mp (hφ d.2), ↓reduceDIte]
+  simp [map, MonoidHom.coe_mk, OneHom.coe_mk, liftOn_ofFractionRing_mk,
+    MonoidHom.coe_ofClass φ ▸ Submonoid.mem_comap.mp (hφ d.2)]
 
 theorem map_injective [MonoidHomClass F R[X] S[X]] (φ : F) (hφ : R[X]⁰ ≤ S[X]⁰.comap φ)
```
Comment (themathqueen) [inline Mathlib/FieldTheory/RatFunc/Basic.lean]: this needs to change too?

File: Mathlib/FieldTheory/RatFunc/Basic.lean [hunk 12]
```diff
@@ -554,7 +554,7 @@ theorem algebraMap_apply {R : Type*} [CommSemiring R] [Algebra R K[X]] (x : R) :
 theorem map_apply_div_ne_zero {R F : Type*} [CommRing R] [IsDomain R]
     [FunLike F K[X] R[X]] [MonoidHomClass F K[X] R[X]]
     (φ : F) (hφ : K[X]⁰ ≤ R[X]⁰.comap φ) (p q : K[X]) (hq : q ≠ 0) :
```
Comment (themathqueen) [inline Mathlib/FieldTheory/RatFunc/Basic.lean]: here too?

File: Mathlib/FieldTheory/RatFunc/Basic.lean [hunk 13]
```diff
@@ -564,7 +564,7 @@ theorem map_apply_div_ne_zero {R F : Type*} [CommRing R] [IsDomain R]
 theorem map_apply_div {R F : Type*} [CommRing R] [IsDomain R]
     [FunLike F K[X] R[X]] [MonoidWithZeroHomClass F K[X] R[X]]
     (φ : F) (hφ : K[X]⁰ ≤ R[X]⁰.comap φ) (p q : K[X]) :
```
Comment (themathqueen) [inline Mathlib/FieldTheory/RatFunc/Basic.lean]: pretty much this whole file needs to change I think?

File: Mathlib/RingTheory/Localization/Ideal.lean [hunk 14]
```diff
@@ -370,23 +370,26 @@ lemma _root_.Module.IsTorsionFree.of_isLocalization [IsDomain R] [IsDomain S] {R
...
+  simp only [MonoidHom.coe_ofClass, ← map_mul,
     (injective_iff_map_eq_zero' _).mp (FaithfulSMul.algebraMap_injective R S)] at H
   exact ⟨a, ha, H⟩
 
 lemma of_surjective {R' S' : Type*} [CommRing R'] [CommRing S'] [Algebra R' S']
     (f : R →+* R') (hf : Function.Surjective f) (g : S →+* S') (hg : Function.Surjective g)
     (H : g.comp (algebraMap R S) = (algebraMap _ _).comp f)
-    (H' : RingHom.ker g ≤ (RingHom.ker f).map (algebraMap R S)) : IsLocalization (M.map f) S' where
+    (H' : RingHom.ker g ≤ (RingHom.ker f).map (algebraMap R S)) :
+    IsLocalization (M.map (f : R →* R')) S' where
```
Comment (themathqueen) [inline Mathlib/RingTheory/Localization/Ideal.lean]:
```suggestion
      IsLocalization (M.map (f : R →* R')) S' where
```

File: Mathlib/RingTheory/Localization/Pi.lean [hunk 15]
```diff
@@ -53,23 +53,25 @@ instance (M : Π i, Submonoid (R i)) [∀ i, IsLocalization (M i) (S i)] :
 variable (S' : Type*) [CommSemiring S'] [Algebra (Π i, R i) S'] (M : Submonoid (Π i, R i))
 
 theorem iff_map_piEvalRingHom [Finite ι] :
-    IsLocalization M S' ↔ IsLocalization (.pi .univ fun i ↦ M.map (Pi.evalRingHom R i)) S' :=
+    IsLocalization M S' ↔ IsLocalization (.pi .univ fun i ↦
+    M.map (Pi.evalRingHom R i : ((i : ι) → R i) →* R i)) S' :=
```
Comment (themathqueen) [inline Mathlib/RingTheory/Localization/Pi.lean]:
```suggestion
      M.map (Pi.evalRingHom R i : ((i : ι) → R i) →* R i)) S' :=
```

File: Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean [hunk 16]
```diff
@@ -254,15 +254,12 @@ theorem map_mem_nonZeroDivisors [Nontrivial M₀] [NoZeroDivisors M₀'] [ZeroHo
...
-  change Submonoid.map h _ = _
   ext
-  simp_rw [Submonoid.map_equiv_eq_comap_symm, Submonoid.mem_comap, mem_nonZeroDivisors_iff,
-    ← h.symm.forall_congr_right, h.symm.toEquiv_eq_coe, h.symm.coe_toEquiv, ← map_mul,
-    map_eq_zero_iff _ h.symm.injective]
+  simp [Submonoid.map_equiv_eq_comap_symm, mem_nonZeroDivisors_iff, ← h.symm.forall_congr_right,
+    ← _root_.map_mul]
 
 theorem map_le_nonZeroDivisors_of_injective [NoZeroDivisors M₀'] [MonoidWithZeroHomClass F M₀ M₀']
     (f : F) (hf : Injective f) {S : Submonoid M₀} (hS : S ≤ M₀⁰) : S.map f ≤ M₀'⁰ := by
```
Comment (themathqueen) [inline Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean]: probably needs to change here?

File: Mathlib/RingTheory/Finiteness/FiniteTypeLocal.lean [hunk 17]
```diff
@@ -67,16 +67,16 @@ then there exists some `m : M` such that `m • x` falls in the
...
 theorem IsLocalization.lift_mem_adjoin_finsetIntegerMultiple [Algebra R S']
-    [IsScalarTower R S S'] [IsLocalization (M.map (algebraMap R S)) S'] (x : S) (s : Finset S')
-    (hx : algebraMap S S' x ∈ Algebra.adjoin R (s : Set S')) :
-    ∃ m : M, m • x ∈
-      Algebra.adjoin R
-        (IsLocalization.finsetIntegerMultiple (M.map (algebraMap R S)) s : Set S) := by
+    [IsScalarTower R S S'] [IsLocalization (M.map (algebraMap R S : R →* S)) S']
+    (x : S) (s : Finset S') (hx : algebraMap S S' x ∈ Algebra.adjoin R (s : Set S')) :
+    ∃ m : M, m • x ∈ Algebra.adjoin R (IsLocalization.finsetIntegerMultiple
+    (M.map (algebraMap R S : R →* S)) s : Set S) := by
```
Comment (themathqueen) [inline Mathlib/RingTheory/Finiteness/FiniteTypeLocal.lean]:
```suggestion
      (M.map (algebraMap R S : R →* S)) s : Set S) := by
```

File: Mathlib/Topology/Algebra/Valued/LocallyCompact.lean [hunk 18]
```diff
@@ -211,8 +208,9 @@ lemma locallyFiniteOrder_units_mrange_of_isCompact_integer (hc : IsCompact (X :=
   · rw [Set.Icc_eq_empty_of_lt]
     · exact Set.finite_empty
     · simp [hz1]
-  have z0' : 0 < (z : MonoidHom.mrange (Valued.v (R := K))) := by simp
-  have z0 : 0 < ((z : MonoidHom.mrange (Valued.v (R := K))) : Γ₀) := Subtype.coe_lt_coe.mpr z0'
+  have z0' : 0 < (z : (Valued.v : Valuation K Γ₀).mrange) := by simp
+  have z0 : 0 < ((z : (Valued.v (R := K)).mrange) : Γ₀) :=
+    Subtype.coe_lt_coe.mpr z0'
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/Valued/LocallyCompact.lean]:
```suggestion
  have z0 : 0 < ((z : (Valued.v (R := K)).mrange) : Γ₀) := Subtype.coe_lt_coe.mpr z0'
```

File: Mathlib/Algebra/Group/Submonoid/Operations.lean [hunk 19]
```diff
@@ -209,116 +207,114 @@ def map (f : F) (S : Submonoid M) :
...
   rfl
 
-@[to_additive (attr := simp)]
-theorem map_coe_toMonoidHom (f : F) (S : Submonoid M) : S.map (f : M →* N) = S.map f :=
-  rfl
 
-@[to_additive (attr := simp)]
-theorem map_coe_toMulEquiv {F} [EquivLike F M N] [MulEquivClass F M N] (f : F) (S : Submonoid M) :
-    S.map (f : M ≃* N) = S.map f :=
-  rfl
```
Comment (themathqueen) [inline Mathlib/Algebra/Group/Submonoid/Operations.lean]: missing deprecations

File: Mathlib/Algebra/Group/Submonoid/Operations.lean [hunk 20]
```diff
@@ -209,116 +207,114 @@ def map (f : F) (S : Submonoid M) :
...
+
 @[to_additive (attr := simp 1100)]
-theorem mem_map_iff_mem {f : F} (hf : Function.Injective f) {S : Submonoid M} {x : M} :
+theorem mem_map_iff_mem (hf : Function.Injective f) {S : Submonoid M} {x : M} :
     f x ∈ S.map f ↔ x ∈ S :=
   hf.mem_set_image
 
 @[to_additive]
-theorem map_le_iff_le_comap {f : F} {S : Submonoid M} {T : Submonoid N} :
+theorem map_le_iff_le_comap {f : M →* N} {S : Submonoid M} {T : Submonoid N} :
```
Comment (themathqueen) [inline Mathlib/Algebra/Group/Submonoid/Operations.lean]: you've already declared `f`
```suggestion
theorem map_le_iff_le_comap {S : Submonoid M} {T : Submonoid N} :
```

**Review by themathqueen — COMMENTED** [review]
I'll continue reviewing this tomorrow. I think I had 10 files left, but I refreshed the page and lost track of most of the files I viewed :(
